US05478845
1-(2-(3,4,5-trimethoxyphenylcarbamoyloxy)-1-propyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine
To a solution of 1-(2-hydroxyprop-1-yl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine (200 mg; 0.69 mmol) in 5 ml dry DMF was added 3,4,5-trimethoxyphenylisocyanate (200 mg; 0.96 mmol) in 3 ml dry DMF. The reaction mixture was heated to 100° C. for 2 h, followed by cooling to room temperature and addition of a mixture of 25 ml water and 150 ml ether. The reaction mixture was filtered and separated. The ether phase was washed with water, brine, dried with sodium sulphate and concentrated in vacuo. The crude product was purified by chromatography on silica gel 60 with ethyl acetate:methanol (9:1, v/v) as eluent. Concentration of the appropriate fractions gave 100 mg (29%) of the title compound. M.p. 74°-77° C.

reactant | 1-(2-hydroxyprop-1-yl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine | 0.69 mmol, 200 mg | OC(CN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C)C | C16H22FN3O
reactant | 3,4,5-trimethoxyphenylisocyanate | 0.96 mmol, 200 mg | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
reactant | water | 25 ml | O | H2O
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(2-(3,4,5-trimethoxyphenylcarbamoyloxy)-1-propyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine | 100 mg, 29% | COC=1C=C(C=C(C1OC)OC)NC(=O)OC(CN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C)C | C26H33FN4O5
